US07674809B2
8a) 2-phenyl-6-aminoquinoline
Pd/C (10%; 0.60 g) is added to 2-phenyl-6-nitroquinoline (7 g, 0.028 mol) in THF (300 ml) and methanol (300 ml). The mixture is hydrogenated at room temperature and at 1 atm. The catalyst is filtered off, the filtrate is evaporated and the product is recrystallized from isopropyl ether. Yield: 5.7 g (92%); Rf (9/1 chloroform/methanol): 0.56; IR (KBr): 3455, 3320, 3205, 1625, 1495 cm−1.

reactant | 2-phenyl-6-nitroquinoline | 0.028 mol, 7 g | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C15H10N2O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd/C | 0.60 g | [Pd] | Pd
product | 2-phenyl-6-aminoquinoline | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)N | C15H12N2
